US05102891
1-[(3-Fluoro-4-pyridinyl)amino]-3-methyl-5-(phenylmethoxy)-1H-indole
To a solution consisting of 3-methyl-5-(phenylmethoxy)-1H-indol-1-amine (4.81 g) and 1-methyl-2-pyrrolidinone (83 ml) was added 4-chloro-3-fluoro pyridine hydrochloride (3.20 g). The resulting mixture was heated at 80° C. for 2 hours. Upon cooling to room temperature, dilute aqueous sodium bicarbonate and ethyl acetate were added to the reaction mixture. The layers were separated and the aqueous phase was extracted with EtOAc (3x). The combined organic layers were washed successively with water (2x) and brine (1x), and thereafter dried (MgSO4). Filtration and concentration gave the crude product. Purification via flash column chromatography (silica gel, 50% ethyl acetate/dichloromethane) afforded 4.0 g of the desired product as a solid, m.p. 210°-213° C.

reactant | 3-methyl-5-(phenylmethoxy)-1H-indol-1-amine | 4.81 g | CC1=CN(C2=CC=C(C=C12)OCC1=CC=CC=C1)N | C16H16N2O
reactant | 1-methyl-2-pyrrolidinone | 83 ml | CN1C(CCC1)=O | C5H9NO
reactant | 4-chloro-3-fluoro pyridine hydrochloride | 3.20 g | Cl.ClC1=C(C=NC=C1)F
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(3-Fluoro-4-pyridinyl)amino]-3-methyl-5-(phenylmethoxy)-1H-indole | 4.0 g | FC=1C=NC=CC1NN1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C | C21H18FN3O
